### ISSUE TITLE
[Documentation] Create proof debugging handbook

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/dumbcontracts#70]
## Summary
Create comprehensive guide for debugging common proof failures, errors, and roadblocks in DumbContracts development.

## Problem
- No guide for common proof failures
- Developers get stuck with cryptic Lean errors
- Slows contribution velocity
- Frustration leads to abandonment
- Pattern knowledge is tribal (not documented)

## Proposed Solution

Create `docs-site/content/guides/debugging-proofs.mdx` with practical sections:

### Section 1: Common Tactic Failures

**"simp made no progress"**
```lean
-- Diagnosis: Simp doesn't know how to unfold definition
-- Fix: Add @[simp] annotation or unfold manually
unfold myDefinition
simp

-- Or add simp attribute
@[simp] theorem my_lemma : ...
```

**"omega failed to solve"**
```lean
-- Diagnosis: Constraint is not linear arithmetic
-- Fix: Add manual case split or use decide tactic
by_cases h : n = 0
· omega  -- Now linear
· omega  -- Now linear
```

**"motive is not type correct"**
```lean
-- Diagnosis: Dependent type mismatch in induction
-- Fix: Generalize the motive
generalize hx : expr = x
induction x
```

### Section 2: Diagnostic Tools

**Type Checking**
```lean
#check myTerm           -- Show type
#check @myFunction      -- Show all implicit args
#print MyTheorem        -- Print definition
```

**Evaluation**
```lean
#eval myFunction arg1 arg2  -- Compute result
#reduce expr                -- Normalize term
```

**Goal Inspection**
```lean
trace "{goal}"         -- Print current goal
trace "Value: {x}"     -- Print variable
sorry                  -- Skip for now, see what's needed
```

### Section 3: Safe Arithmetic Debugging

**Overflow/Underflow Issues**
```lean
-- Error: "expected a + b ≤ MAX but got a + b < MAX + 1"
-- Fix: Use omega to convert inequalities
have h1 : a + b ≤ MAX := by omega
have h2 : a + b < MAX + 1 := by omega
```

**SafeAdd/SafeSub Failures**
```lean
-- Error: "safeAdd a b = none in success case"
-- Diagnosis: Missing bound proof
-- Fix: Prove precondition
have h : (a : Nat) + (b : Nat) ≤ MAX_UINT256 := by
  omega  -- or manual proof
rw [safeAdd_some_iff_le] at h
```

### Section 4: Storage State Reasoning

**Function Extensionality**
```lean
-- Problem: Need to show storage unchanged except slot k
-- Pattern: Use function extensionality
ext slot
by_cases h : slot = k
· simp [h]  -- Show slot k changed
· simp [h]  -- Show other slots unchanged
```

**State Update Composition**
```lean
-- Problem: Multiple storage updates compose incorrectly
-- Pattern: Use runState_bind
rw [runState_bind]
simp [setStorage]
```

### Section 5: Proof Pattern Library

**Authorization Checks**
```lean
-- Pattern: Prove operation succeeds when authorized
theorem authorized_operation (h : state.owner = sender) :
    operation.isSuccess = true := by
  unfold operation onlyOwner
  simp [h, require]
```

**Inductive Proofs**
```lean
-- Pattern: Structural induction on Nat
theorem by_induction : ∀ n, P n := by
  intro n
  induction n with
  | zero => base_case
  | succ k ih => inductive_step
```

**Simplification Order**
```lean
-- Wrong order (doesn't work):
simp [getStorage]
unfold getValue

-- Right order (works):
unfold getValue
simp [getStorage]
```

### Section 6: Common Error Messages

**Table of errors with solutions**:

| Error | Cause | Fix |
|-------|-------|-----|
| "unknown identifier" | Typo or missing import | Check spelling, add import |
| "failed to synthesize instance" | Missing typeclass | Add instance or use explicit arg |
| "type mismatch" | Wrong types | Check expected vs actual |
| "maximum recursion depth" | Infinite loop in tactic | Add fuel or use different approach |

### Section 7: Performance Issues

**Slow Proofs**
```lean
-- Problem: Proof takes >10 seconds
-- Diagnosis: Expensive tactics (simp, omega on large terms)
-- Fix: Cache intermediate results
have h1 := expensive_lemma args
have h2 := another_expensive_lemma args
exact ⟨h1, h2⟩
```

### Section 8: Getting Help

When stuck:
1. Check this guide first
2. Search existing proofs for similar patterns
3. Use `#check` and `trace` to inspect goal
4. Ask in GitHub Discussions with minimal example
5. Check Lean Zulip for similar issues

## Impact
✅ Reduces developer frustration
✅ Accelerates proof development
✅ Enables self-service problem solving
✅ Reduces abandonment rate
✅ Complements "First Contract" tutorial

## Estimated Effort
1 week (gather examples, write, review)

## Dependencies
- **Issue #66**: First contract tutorial (complementary)

## Success Criteria
- [ ] Covers 15+ common error patterns
- [ ] 90%+ of stuck developers find solutions
- [ ] Positive feedback in surveys
- [ ] Reduced "help needed" GitHub issues

## Related
- Complements #66 (First Contract tutorial)
- Reduces onboarding friction
